US05498621
D. 2-Phenyl-5-methyloxazol-4-ylacetic acid
To a solution of 1.0 g of 2-phenyl-4-hydroxyethyl5-methyloxazole in 20 ml of acetone was added a solution consisting of 1 g of chromium trioxide, 0.9 ml of concentrated sulfuric acid and 4 ml of water and the reaction stirred at room temperature for 40 minutes. The reaction mixture was poured into water (60 ml) and the product extracted with 150 ml of ethyl acetate. The organic layer was washed with water (2×50 ml) and dried over sodium sulfate. Removal of the solvent gave the crude product as an oil. The residue was dissolved in 80 ml of ethyl acetate and the product extracted with 100 ml of 0.25N aqueous sodium hydroxide. The aqueous layer was separated, acidified with 1N hydrochloric acid and the product extracted with 150 ml of ethyl acetate. The organic phase was separated, dried over sodium sulfate and concentrated to give a yellow solid, 500 mg.

reactant | 2-phenyl-4-hydroxyethyl5-methyloxazole | 1.0 g | C1(=CC=CC=C1)C=1OC(=C(N1)CCO)C | C12H13NO2
reactant | sulfuric acid | 0.9 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 4 ml | O | H2O
reactant | water | 60 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | chromium trioxide | 1 g | [O-2].[O-2].[O-2].[Cr+6]
product | 2-Phenyl-5-methyloxazol-4-ylacetic acid | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)O)C | C12H11NO3
